US04703054
(1) To a solution of glycylglycinamide acetate (10 g) in methanol (250 ml) and acetone (125 ml), Amberlite IRA-68 resin (20 g) (from Rohm & Haas, Philadelphia, USA) was added. Amberlite is a registered trade mark and IRA-68 is a weakly basic resin. The suspension was stirred at room temperature for 1 hour, then resin was filtered off and the solution was evaporated under reduced pressure. The residue was suspended in refluxing acetone (250 ml) and methanol was added to obtain a clear solution, which was refluxed for 2 hours. Evaporation and trituration of the residue with acetone gave 2,2-dimethyl-5-oxo-1-imidazolidineacetamide (6.85 g).

reactant | glycylglycinamide acetate | 10 g | C(C)(=O)O.NCC(=O)NCC(=O)N
reactant | methanol | 250 ml | CO | CH4O
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | 2,2-dimethyl-5-oxo-1-imidazolidineacetamide | 6.85 g | CC1(N(C(CN1)=O)CC(=O)N)C | C7H13N3O2
